US06387919B1
N-(1H-Indazol-6-yl)-4-[(7-oxo-6,7-dihydro-1-thia-3,6-diaza-as-indacen-8-ylidenemethyl)-amino]-benzenesulfonamide (Z-isomer)
The title compound was prepared in 16% yield from 8-ethoxymethylene-6,8-dihydro-1-thia-3,6-diaza-as-indacen-7-one and 4-amino-N-(1H-indazol-6-yl)-benzenesulfonamide according to Procedure J: 1H NMR (DMSO-d6): δ 12.9 (s, 1H), 11.1 (d, 1H), 10.9 (s, 1H), 10.4 (s, 1H), 9.3 (s, 1H), 8.1(d, 1H), 8.0 (s, 1H), 7.8 (d, 1H), 7.8 (d, 2H), 7.7 (d, 1H), 7.6 (d, 2H), 7.3 (s, 1H), 7.1 (d, 1H), 6.9 (d, 1H); APCI−MS m/z 487 (M−H)−.

reactant | 8-ethoxymethylene-6,8-dihydro-1-thia-3,6-diaza-as-indacen-7-one | C(C)OC=C1C(NC2=CC=C3N=CSC3=C12)=O | C12H10N2O2S
reactant | 4-amino-N-(1H-indazol-6-yl)-benzenesulfonamide | NC1=CC=C(C=C1)S(=O)(=O)NC1=CC=C2C=NNC2=C1 | C13H12N4O2S
product | N-(1H-Indazol-6-yl)-4-[(7-oxo-6,7-dihydro-1-thia-3,6-diaza-as-indacen-8-ylidenemethyl)-amino]-benzenesulfonamide | 16% yield | N1N=CC2=CC=C(C=C12)NS(=O)(=O)C1=CC=C(C=C1)NC=C1C(NC2=CC=C3N=CSC3=C12)=O | C23H16N6O3S2
